US05883106
B. Ethyl 4-(3-bromophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate
To a stirred solution of ethyl 3-bromophenylacetate (Guenther, O. et al, Chem. Ber., 1967, 100, 425) (41.3 g, 170 mmol) and 15-crown-5 (3.74 g, 17 mmol) in DMF (1 L) at room temperature was added sodium hydride (14.8 g, 370 mmol, 60% dispersion in mineral oil) in portions. After stirring at room temperature for 40 min, sodium iodide (25.5 g, 170 mmol) and bis(2-chloroethyl)ether (30.4 g, 210 mmol) were added. After 10.5 hr the bulk of DMF was removed under reduced pressure. The residue was covered with a mixture of ethyl acetate and toluene (1:1, 500 ml) and washed with 0.5N hydrogen chloride (500 ml). The aqueous layer was extracted with a mixture of ethyl acetate-toluene (1:1, 2×500 ml) and the combined extracts were washed with water (250 ml), saturated sodium bicarbonate (250 ml), water (2×250 ml) and brine (250 ml), dried (magnesium sulfate) and concentrated under reduced pressure to give 56.8 g of crude product as an orange liquid. Purification by column chromatography (silica-gel, 700 g; 15% then 20% ethyl acetate in n-hexane) gave the titled compound as a yellow liquid (36.5 g, 69%).

reactant | ethyl 3-bromophenylacetate | BrC=1C=C(C=CC1)CC(=O)OCC | C10H11BrO2
reactant | 15-crown-5 | 17 mmol, 3.74 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | sodium hydride | 370 mmol, 14.8 g | [H-].[Na+]
reactant | sodium iodide | 170 mmol, 25.5 g | [I-].[Na+]
reactant | bis(2-chloroethyl)ether | 210 mmol, 30.4 g | ClCCOCCCl | C4H8Cl2O
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | Ethyl 4-(3-bromophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 36.5 g, 69% | BrC=1C=C(C=CC1)C1(CCOCC1)C(=O)OCC | C14H17BrO3
